US09102697B2
(4S,6S)-6-(tert-Butyldimethylsilyloxy)-4-(4-methoxybenzyloxy)cyclohex-2-enone.
tert-Butyldimethychlorosilane (26 mg, 0.18 mmol, 1.5 equiv) was added to an ice-cooled solution of (4S,6S)-6-hydroxy-4-(4-methoxybenzyloxy)cyclohex-2-enone (29 mg, 0.12 mmol, 1 equiv) and imidazole (24 mg, 0.35 mmol, 3 equiv) in dimethylformamide (0.5 mL). After 45 min, the reaction mixture was partitioned between water (15 mL), saturated aqueous sodium chloride solution (15 mL), and ethyl acetate (20 mL). The layers were separated. The organic layer was washed with water (2×20 mL) and the washed solution was dried over sodium sulfate. The dried solution was filtered and the filtrate was concentrated. The residue was purified by flash-column chromatography to provide 29 mg of the product, (4S,6S)-6-(tert-butyldimethylsilyloxy)-4-(4-methoxybenzyloxy)cyclohex-2-enone, as a colorless oil (87%).

reactant | tert-Butyldimethychlorosilane | 0.18 mmol, 26 mg, 1.5 equiv | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | (4S,6S)-6-hydroxy-4-(4-methoxybenzyloxy)cyclohex-2-enone | 0.12 mmol, 29 mg, 1 equiv | O[C@H]1C[C@@H](C=CC1=O)OCC1=CC=C(C=C1)OC | C14H16O4
reactant | imidazole | 0.35 mmol, 24 mg, 3 equiv | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | (4S,6S)-6-(tert-Butyldimethylsilyloxy)-4-(4-methoxybenzyloxy)cyclohex-2-enone | 29 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C=CC1=O)OCC1=CC=C(C=C1)OC | C20H30O4Si
